US04088768
N-(2-Benzimidazolyl)-N'-naphthylurea
A solution was prepared containing 5.32 g. of 2-aminobenzimidazole in 150 ml. of tetrahydrofuran (THF). A second solution containing 6.76 g. of naphthyl isocyanate in 100 ml. of THF was added with stirring over a 30 minute period. The reaction mixture was heated at refluxing temperature for 6 hours and then cooled N-(2-benzimidazolyl)-N'-naphthylurea precipitated and was separated by filtration. Recrystallization of the filter cake from acetone yielded purified N-(2-benzimidazolyl)-N'-naphthylurea melting at 327°-328° C.

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | naphthyl isocyanate | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
solvent | THF | O1CCCC1 | C4H8O
product | N-(2-Benzimidazolyl)-N'-naphthylurea | N1=C(NC2=C1C=CC=C2)NC(=O)NC2=CC=CC1=CC=CC=C21 | C18H14N4O
